US04948794
3.6 g (14.1 mmol) N-cyclohexyl-2-nitroaniline was dissolved in 50 ml ethanol and 150 ml ethylacetate. The solution was hydrogenated at atm. pressure by using Ra-Ni (1 g) as a catalyst. The reaction mixture was filtered and the filtrate was evaporated to give an oil. A mixture of the oil and 3.5 g (28 mmol) oxalic acid dihydrate in 100 ml 4N hydrochloric acid was refluxed for 2 h. After cooling to 25° C. the product was filtered off and washed with water to give 3.4 g (86%) 1-cyclohexyl-7-chlorquinoxaline-2,3(1H, 4H)-dione. M.p. (DSC) 310.6° C. 1H-NMR (DMSO-d6): 12.0 (1H, broad s), 7.7 (1H, s), 7.2 (2H, s), 4.2 (1H, broad s) 2.0-1.0 (10H, m).

reactant | N-cyclohexyl-2-nitroaniline | 14.1 mmol, 3.6 g | C1(CCCCC1)NC1=C(C=CC=C1)[N+](=O)[O-] | C12H16N2O2
reactant | oxalic acid dihydrate | 28 mmol, 3.5 g | O.O.C(C(=O)O)(=O)O
reactant | hydrochloric acid | 4N, 100 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethylacetate | 150 ml | C(C)OC(C)=O | C4H8O2
catalyst | Ra-Ni | 1 g | [Ni] | Ni
product | 1-cyclohexyl-7-chlorquinoxaline-2,3(1H, 4H)-dione | 3.4 g, 86% | C1(CCCCC1)N1C(C(NC2=CC=C(C=C12)Cl)=O)=O | C14H15ClN2O2
